US08106070B2
1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (51 mg, 0.06 mmol) was added to a degassed, ambient temperature solution of tert-butyl 2-[1-{[(benzyloxy)carbonyl]amino}-2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate (367 mg, 0.63 mmol), sodium carbonate (200 mg, 1.9 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (244 mg, 1.2 mmol) in N,N-dimethylformamide/water (2:1) (30 mL). After stirring at 80° C. overnight, the reaction mixture was cooled, poured into water and extracted with diethyl ether. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Pd (10 wt % on activated carbon) (catalytic) was added to a degassed, ambient temperature solution of the crude residue in methanol (5 mL). After stirring at ambient temperature under an atmosphere of hydrogen overnight, the reaction mixture was filtered through cotton and concentrated in vacuo. Triethylamine (0.61 mL, 4.4 mmol) followed by di-tert-butyl dicarbonate (687 mg, 3.1 mmol) were added to an ambient temperature solution of the crude residue in tetrahydrofuran (5 mL). After stirring at ambient temperature for 5 h, the reaction mixture was quenched with water and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded tert-butyl 4-(4-{2-[(tert-butoxycarbonyl)amino]-2-[1-(tert-butoxycarbonyl)-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}phenyl)-1H-pyrazole-1-carboxylate.

reactant | tert-butyl 2-[1-{[(benzyloxy)carbonyl]amino}-2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate | 0.63 mmol, 367 mg | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=C(C=C1)Br)C=1N(C=C(N1)CC(CC)(C)C)C(=O)OC(C)(C)C | C30H38BrN3O4
reactant | sodium carbonate | 1.9 mmol, 200 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.2 mmol, 244 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | Triethylamine | 4.4 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.1 mmol, 687 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylformamide water | 30 mL | CN(C=O)C.O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 4-(4-{2-[(tert-butoxycarbonyl)amino]-2-[1-(tert-butoxycarbonyl)-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}phenyl)-1H-pyrazole-1-carboxylate | C(C)(C)(C)OC(=O)NC(CC1=CC=C(C=C1)C=1C=NN(C1)C(=O)OC(C)(C)C)C=1N(C=C(N1)CC(CC)(C)C)C(=O)OC(C)(C)C | C35H51N5O6
